US06982348B2
6) (1RS,2SR)-2-amino-1-[4-(methylsulfonyl)phenyl]-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-1-propanol
To a solution of (4RS,5SR)-5-[4-(methylsulfonyl)phenyl]-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one (1.80 g, 4.02 mmol) in ethanol (20 ml) was added 8N aqueous sodium hydroxide solution (1.51 ml, 12.07 mmol) and the mixture was heated under reflux for 3 hrs. To the reaction solution was added water (100 ml) and the mixture was extracted with ethyl acetate (200 ml×2). The extract was washed with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was crystallized from hexane-diethyl ether to give the objective substance (1.49 g, 86%).

reactant | (4RS,5SR)-5-[4-(methylsulfonyl)phenyl]-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one | 4.02 mmol, 1.80 g | CS(=O)(=O)C1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C19H17F4NO5S
reactant | sodium hydroxide | 12.07 mmol, 8N, 1.51 ml | [OH-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-1-[4-(methylsulfonyl)phenyl]-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]-1-propanol | NC(C(O)C1=CC=C(C=C1)S(=O)(=O)C)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C18H19F4NO4S
